US05407930
3,4-(methylenedioxy)mandelic acid
42.4g (1 mol) of lithium chloride and 140.3 g (2.5 mol) of potassium hydroxide were dissolved in 500 ml of ice water, and then, 10 g of a 90% trioctylmethylammonium chloride aqueous solution was added thereto. A solution prepared by dissolving 75 g (0.5 mol) of piperonal and bromoform (containing 13 v/v % ethanol, about 0.63 mol) in 500 ml of dioxane was dropwise added to the solution at a temperature of at most 5° C., and then, the mixture was stirred at the same temperature for 24 hours. The reaction mixture was adjusted to pH 1.5 with 130 ml of 6N hydrochloric acid and extracted with 500 ml of ethyl acetate. 500 ml of water was added to the organic layer, adjusted to pH 8.0 with potassium carbonate powder, and the aqueous layer was separated. 130 ml of 6N hydrochloric acid was added to the aqueous layer to adjust pH 1.5 and then extracted with 500 ml of ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. A crystalline residue was collected by filtration, washed with methylene chloride and diethyl ether and dried under reduced pressure to obtain 55.5 g (yield: 57%) of the above identified compound as the slightly yellow powder.

reactant | lithium chloride | 1 mol, 42.4g | [Cl-].[Li+]
reactant | potassium hydroxide | 2.5 mol, 140.3 g | [OH-].[K+]
reactant | piperonal | 0.5 mol, 75 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | bromoform | about 0.63 mol | C(Br)(Br)Br | CHBr3
reactant | hydrochloric acid | 6N, 130 ml | Cl | ClH
reactant | dioxane | 500 ml | O1CCOCC1 | C4H8O2
catalyst | trioctylmethylammonium chloride | [Cl-].C(CCCCCCC)[N+](C)(CCCCCCCC)CCCCCCCC
product | 3,4-(methylenedioxy)mandelic acid | yield: 57% | C1OC=2C=C(C(C(=O)O)O)C=CC2O1 | C9H8O5
